US04057578
11.8 g (0.05 mole) trichloromethane phosphonic dichloride, 7.8 g (0.075 mole) styrene, 134 mg (1 mmole) anhydrous cupric chloride and 206 mg triethylammonium chloride were brought into solution by 5 ml acetonitrile, and heated in the absence of air in a sealed ampoule at 110° during 3.5 hours. After cooling and opening of the ampoule, the reaction mixture was subjected to fractionation in vacuo, through a short Vigreux column. 9.1 g pure 1:1 adduct, 1,1,3-trichloro-3-phenyl-propane-1-phosphonic dichloride was obtained bp/0.05: 121°. Found: Cl: 50.8, Calc. for C9H8Cl5OP: 52.1%

reactant | trichloromethane phosphonic dichloride | 0.05 mole, 11.8 g | ClC(P(=O)(Cl)Cl)(Cl)Cl | CCl5OP
reactant | styrene | 0.075 mole, 7.8 g | C=CC1=CC=CC=C1 | C8H8
reactant | triethylammonium chloride | 206 mg | [Cl-].C(C)[NH+](CC)CC
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1,1,3-trichloro-3-phenyl-propane-1-phosphonic dichloride | ClC(CC(C1=CC=CC=C1)Cl)(P(=O)(Cl)Cl)Cl | C9H8Cl5OP
